US08835411B2
1-Amino-4-fluoro-4-(hydroxymethyl)cyclohexanecarbonitrile
A flask was charged with 4-fluoro-4-(hydroxymethyl)cyclohexanone, derived from Intermediate 31, (12.1 g, 83 mmol), methanol (200 mL), aqueous ammonium hydroxide (32.2 mL, 828 mmol) and then NH4Cl (8.86 g, 166 mmol). After the ammonium chloride had dissolved, NaCN (8.11 g, 166 mmol) was added. The reaction was stirred under nitrogen overnight. The mixture was then concentrated. Brine (100 mL) was added to the resulting residue. The slurry was extracted with chloroform/isopropanol (200 mL, 10%, 7 times) and the combined organic fractions dried (MgSO4) and evaporated giving the title compound (12.2 g, 70.8 mmol, 86% yield)] as a creamy white solid.

reactant | 4-fluoro-4-(hydroxymethyl)cyclohexanone | FC1(CCC(CC1)=O)CO | C7H11FO2
reactant | ammonium hydroxide | 828 mmol, 32.2 mL | [OH-].[NH4+]
reactant | NH4Cl | 166 mmol, 8.86 g | [NH4+].[Cl-]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | NaCN | 166 mmol, 8.11 g | [C-]#N.[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 1-Amino-4-fluoro-4-(hydroxymethyl)cyclohexanecarbonitrile | 70.8 mmol, 12.2 g, 86% yield | NC1(CCC(CC1)(CO)F)C#N | C8H13FN2O
